US03962444
46.5 g of 2-trifluoromethyl-4-chloro-quinazoline is added, while stirring, to a mixture of 97 g of potassiumthiocyanate and 200 ml of acetic acid. The reaction mixture is stirred for 2 hours at room temperature, the resultant light-yellow precipitate is drawn off, consecutively washed with a small amount of acetic acid and water and subsequently dried in air. The 2-trifluoromethyl-4-thiocyano-quinazoline thus obtained has a melting point of 134°-136°C.

reactant | 2-trifluoromethyl-4-chloro-quinazoline | 46.5 g | FC(C1=NC2=CC=CC=C2C(=N1)Cl)(F)F | C9H4ClF3N2
reactant | potassiumthiocyanate | 97 g | [S-]C#N.[K+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-trifluoromethyl-4-thiocyano-quinazoline | FC(C1=NC2=CC=CC=C2C(=N1)SC#N)(F)F | C10H4F3N3S
